US07495007B2
In a manner similar to the method described in example 4b, E/Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one (3.3 g, 11.3 mmol) was reacted with ethyl chloroformate (1.62 mL, 17.0 mmol) and triethylamine (3.16 mL, 22.6 mmol) in dichloromethane to give E/Z-6-chloro-3-(4-chloro-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester as a yellow solid (Yield 3.0 g, 73%).

reactant | Z-6-chloro-3-(4-chloro-benzylidene)-1,3-dihydro-indol-2-one | 11.3 mmol, 3.3 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CC=C(C=C1)Cl | C15H9Cl2NO
reactant | ethyl chloroformate | 17.0 mmol, 1.62 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 22.6 mmol, 3.16 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-6-chloro-3-(4-chloro-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester | Yield 3.0 g, 73% | C(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=CC=C(C=C1)Cl)=O | C18H13Cl2NO3
